Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],5.14562606674
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][H:8].[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-6.18850881397
[C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],-6.62147348599
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:3]([H:4])([H:5])[C:6][H:7],8.37905126841
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],7.18864616921
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.20608168557
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],4.723165105990001
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][C:8][H:9])=[C:10]([H:11])[H:12],0.54906499893
[H:1][C:2]([H:3])=[C:4][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:4][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:3],2.41161634324
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],1.75042030406
[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],-4.2065784205800005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[O:11],0.515944434181
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12],4.2316744466900005
[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[H:7].[O:1]=[C:2]([H:3])/[C:4]=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],5.803634707840001
[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.596387678419
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.89980321578
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][O:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7].[O:8][H:9],6.387137493759999
[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14].[H:1][C:2]([H:11])[H:15]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.79795733309
[C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-5.56868853009
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[H:1][C:2]1[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]1[H:12],-1.5663741451
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.7728939766400003
[H:1][C:2]=[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13],2.8448188617500003
[H:12].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.62470568687
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2],2.12745498081
[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.30491413999
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],1.22117444778
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7],1.86983757718
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:4].[O:1][C:2]#[C:3][C:5]([H:6])([H:7])[H:8],4.39873200149
